US06451814B1
4-[4-(2-{[(2S)-2-Hydroxy-3-(4-hydroxyphenoxy)propyl]amino}ethyl)phenoxy]-N-octyl-1-piperidinecarboxamide
A suspension of 4-{4-[2-({(2S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl}amino)ethyl]phenoxy}-N-octyl-1-piperidinecarboxamide (0.2 g, 0.32 mmol), and 10% palladium on carbon (0.3 g) in ethanol (5 mL) was stirred under atmospheric hydrogen for 11 hours. The catalyst was filtered and the filtrate evaporated in vacuo to a residue (0.1 g). The residue was treated with a solution of anhydrous hydrogen chloride in methanol followed by ethyl acetate and diethyl ether. The precipitate was filtered and after drying in vacuo overnight yielded the title compound (0.1 g, 0.17 mmol).

reactant | 4-{4-[2-({(2S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl}amino)ethyl]phenoxy}-N-octyl-1-piperidinecarboxamide | 0.32 mmol, 0.2 g | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H](CNCCC2=CC=C(OC3CCN(CC3)C(=O)NCCCCCCCC)C=C2)O)C=C1 | C38H53N3O5
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-[4-(2-{[(2S)-2-Hydroxy-3-(4-hydroxyphenoxy)propyl]amino}ethyl)phenoxy]-N-octyl-1-piperidinecarboxamide | 0.17 mmol, 0.1 g | O[C@@H](CNCCC1=CC=C(OC2CCN(CC2)C(=O)NCCCCCCCC)C=C1)COC1=CC=C(C=C1)O | C31H47N3O5
